US06743789B2
4-(2,4-Dimethoxy-benzyl)-7-isopropyl-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione
A suspension of 6-isopropyl-1H-benzo[d][1,3]oxazine-2,4-dione (3.0 g, 15 mmol) containing (2,4-dimethoxy-benzylamino)-acetic acid (3.7 g, 16 mmol) in p-xylene (40 mL) was heated under reflux (150° C.) for 2.5 h. After cooling to room temperature the precipitate was filtered off and washed with p-xylene (2×20 ml). Yield: 4.9 g (90%). m/z 367 (M—H−).

reactant | 6-isopropyl-1H-benzo[d][1,3]oxazine-2,4-dione | 15 mmol, 3.0 g | C(C)(C)C1=CC2=C(NC(OC2=O)=O)C=C1 | C11H11NO3
reactant | (2,4-dimethoxy-benzylamino)-acetic acid | 16 mmol, 3.7 g | COC1=C(CNCC(=O)O)C=CC(=C1)OC | C11H15NO4
solvent | p-xylene | 40 mL | CC=1C=CC(=CC1)C | C8H10
product | 4-(2,4-Dimethoxy-benzyl)-7-isopropyl-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | COC1=C(CN2CC(NC3=C(C2=O)C=C(C=C3)C(C)C)=O)C=CC(=C1)OC | C21H24N2O4
